spice
* NMOS Transistor
M1 Vout Vin 0 0 NMOS_MODEL

* Resistor
RD Vout 0 1k

* Voltage Sources
VDD 2 0 DC 5V
Vin Vin 0 DC 1V

* Model Declaration
.model NMOS_MODEL NMOS ( LEVEL=1 VTO=0.7 KP=30u LAMBDA=0.02)

.END